simulator lang=spectre
global 0
include "/home/process/tsmc180bcd_gen2_2022/PDK/TSMC180BCD/models/spectre/c018bcd_gen2_v1d6.scs" section=ss
include "/home/process/tsmc180bcd_gen2_2022/PDK/TSMC180BCD/models/spectre/c018bcd_gen2_v1d6.scs" section=stat_noise
simulator lang=spectre insensitive=no
include "/home/process/tsmc180bcd_gen2_2022/PDK/TSMC180BCD/models/spectre/c018bcd_gen2_v1d6.scs" section=ss_bbmvar
simulator lang=spectre insensitive=no
include "cells.scs"
simulatorOptions options reltol=1e-5 vabstol=1e-7 iabstol=1e-13 temp=60
include "lc_vco_v4r.scs"
VDD (vdd 0) vsource dc=1.2
VVCO (vco_vdd vdd) vsource dc=0
VC (ctrl 0) vsource dc=0.6
VB0 (b0 0) vsource type=pwl wave=[0 0 1e-07 0 1.001e-07 1.2 2e-07 1.2 2.001e-07 0 3e-07 0 3.001e-07 1.2 4e-07 1.2 4.001e-07 0 5e-07 0 5.001e-07 1.2 6e-07 1.2 6.001e-07 0 7e-07 0 7.001e-07 1.2 8e-07 1.2 8.001e-07 0 9e-07 0 9.001e-07 1.2 1e-06 1.2 1.0001e-06 0 1.1e-06 0 1.1001e-06 1.2 1.2e-06 1.2 1.2001e-06 0 1.3e-06 0 1.3001e-06 1.2 1.4e-06 1.2 1.4001e-06 0 1.5e-06 0 1.5001e-06 1.2]
VB1 (b1 0) vsource type=pwl wave=[0 0 1e-07 0 1.001e-07 1.2 2e-07 1.2 2.001e-07 0 3e-07 0 3.001e-07 1.2 4e-07 1.2 4.001e-07 0 5e-07 0 5.001e-07 1.2 6e-07 1.2 6.001e-07 0 7e-07 0 7.001e-07 1.2 8e-07 1.2 8.001e-07 0 9e-07 0 9.001e-07 1.2 1e-06 1.2 1.0001e-06 0 1.1e-06 0 1.1001e-06 1.2 1.2e-06 1.2 1.2001e-06 0 1.3e-06 0 1.3001e-06 1.2 1.4e-06 1.2 1.4001e-06 0 1.5e-06 0 1.5001e-06 1.2]
VB2 (b2 0) vsource type=pwl wave=[0 0 1e-07 0 1.001e-07 1.2 2e-07 1.2 2.001e-07 0 3e-07 0 3.001e-07 1.2 4e-07 1.2 4.001e-07 0 5e-07 0 5.001e-07 1.2 6e-07 1.2 6.001e-07 0 7e-07 0 7.001e-07 1.2 8e-07 1.2 8.001e-07 0 9e-07 0 9.001e-07 1.2 1e-06 1.2 1.0001e-06 0 1.1e-06 0 1.1001e-06 1.2 1.2e-06 1.2 1.2001e-06 0 1.3e-06 0 1.3001e-06 1.2 1.4e-06 1.2 1.4001e-06 0 1.5e-06 0 1.5001e-06 1.2]
VB3 (b3 0) vsource type=pwl wave=[0 0 2e-07 0 2.001e-07 1.2 4e-07 1.2 4.001e-07 0 5e-07 0 5.001e-07 1.2 6e-07 1.2 6.001e-07 0 7e-07 0 7.001e-07 1.2 8e-07 1.2 8.001e-07 0 9e-07 0 9.001e-07 1.2 1e-06 1.2 1.0001e-06 0 1.2e-06 0 1.2001e-06 1.2 1.4e-06 1.2 1.4001e-06 0 1.5e-06 0 1.5001e-06 1.2]
VB4 (b4 0) vsource type=pwl wave=[0 0 4e-07 0 4.001e-07 1.2 6e-07 1.2 6.001e-07 0 7e-07 0 7.001e-07 1.2 8e-07 1.2 8.001e-07 0 9e-07 0 9.001e-07 1.2 1e-06 1.2 1.0001e-06 0 1.1e-06 0 1.1001e-06 1.2 1.4e-06 1.2 1.4001e-06 0 1.5e-06 0 1.5001e-06 1.2]
VB5 (b5 0) vsource type=pwl wave=[0 0 6e-07 0 6.001e-07 1.2 8e-07 1.2 8.001e-07 0 9e-07 0 9.001e-07 1.2 1e-06 1.2 1.0001e-06 0 1.1e-06 0 1.1001e-06 1.2 1.4e-06 1.2 1.4001e-06 0 1.5e-06 0 1.5001e-06 1.2]
VB6 (b6 0) vsource type=pwl wave=[0 0 8e-07 0 8.001e-07 1.2 1e-06 1.2 1.0001e-06 0 1.1e-06 0 1.1001e-06 1.2 1.4e-06 1.2 1.4001e-06 0 1.5e-06 0 1.5001e-06 1.2]
VB7 (b7 0) vsource type=pwl wave=[0 0 1e-06 0 1.0001e-06 1.2 1.4e-06 1.2 1.4001e-06 0 1.5e-06 0 1.5001e-06 1.2]
XV (vp vn ctrl b0 b1 b2 b3 b4 b5 b6 b7 vco_vdd 0) tx_lc_vco_v4r fixed_c=2e-14 tank_l=2e-09 series_r=6.822430344006 cscale=1 core_w=0.00012 pcore_w=8e-05 ibias=8e-05 unit_c=4.4e-15 unit_w=1.2e-06 fine_w=3e-06
CPROX (vp 0) capacitor c=1.4e-13
CNROX (vn 0) capacitor c=1.4e-13
ic vp=1.20001 vn=1.2
tran tran stop=1.6e-06 maxstep=5e-12 errpreset=conservative
save b0 b1 b2 b3 b4 b5 b6 b7 vp vn XV.XL.nfilt XV.XBP.x7 XV.XL.tail VDD:p VVCO:p
saveOptions options save=selected
